US07767677B2
Synthesis of (1-(3-methylbutyl)-3-{6-[4-(2-trifluoromethylbenzoyl)-piperazin-1-yl]pyridazin-3-yl}imidazolidin-2-one)
A mixture of 1-{6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazin-3-yl}imidazolidin-2-one (0.080 g, 0.180 mmol), sodium hydride in 60% mineral oil (0.0035 g, 0.150 mmol) in DMF (10 mL) was stirred at room temperature for 30 minutes. 1-Iodo-3-methylbutane (0.0376 g, 0.190 mmol) was added and the mixture was stirred at 60° C. for 24 hours, followed by the dilution with 50 mL of water, and then extracted with ethyl acetate (100 mL). The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated. The title compound was obtained as a pale yellow solid in 32% yield (0.028 mg) after column chromatography purification. 1H NMR (300 MHz, CDCl3) δ 8.45 (d, J=9.9 Hz, 1H), 7.71 (d, J=7.8 Hz, 1H), 7.48-7.65 (m, 2H), 7.32 (d, J=7.5 Hz, 1H), 6.98 (d, J=9.9 Hz, 1H), 3.82-4.12 (m, 4H), 3.42-3.64 (m, 6H), 3.24-3.34 (m, 4H), 1.38-1.66 (m, 3H), 0.92 (d, J=6.5 Hz, 6H). 13C NMR (75 MHz, CDCl3) δ 167.8, 157.3, 150.5, 134.8, 132.6, 129.7, 127.5, 127.1, 125.8, 122.1, 120.4, 116.6, 46.8, 46.3, 45.9, 42.5, 42.1, 41.5, 36.5, 26.1, 22.8. MS (ES+) m/z 491 (M+1).

reactant | 1-{6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazin-3-yl}imidazolidin-2-one | 0.180 mmol, 0.080 g | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)N2C(NCC2)=O)C=CC=C1)(F)F | C19H19F3N6O2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-Iodo-3-methylbutane | 0.190 mmol, 0.0376 g | ICCC(C)C | C5H11I
reactant | water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(3-methylbutyl)-3-{6-[4-(2-trifluoromethylbenzoyl)-piperazin-1-yl]pyridazin-3-yl}imidazolidin-2-one | 32% yield | CC(CCN1C(N(CC1)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O)C | C24H29F3N6O2
